US05057525
To a stirred solution of 7.5 parts of cis-4-amino-5-chloro-N-[1-[3-(4-fluorophenoxy)propyl]-3-hydroxy-4-piperidinyl]-2-methoxybenzamide in 68 parts of tetrahydrofuran were added dropwise 1.94 parts of N,N-diethylethanamine. After cooling to 0° C., 1.4 parts of acetyl chloride dissolve in 9 parts of tetrahydrofuran were added dropwise at a temperature below 0° C. Upon completion, stirring was continued for a while in an ice-bath. The mixture was allowed to reach slowly room temperature and stirring was continued overnight at room temperature. The solvent was evaporated and the residue was taken up in a saturate sodium carbonate solution. The product was extracted with methylbenzene. The extract was washed with water, dried, filtered and evaporated. The residue was purified twice by column-chromatography over silica gel using first a mixture of trichloromethane and methanol (95:5 by volume) and then a mixture of trichloromethane, hexane and methanol (48:48:4 by volume) as eluent. The first fraction was collected and the eluent was evaporated. The residue was suspended in petroleumether. The product was filtered off and dried, yielding 0.59 parts of cis-4-[[4-(acetylamino)-5-chloro-2-methoxybenzoyl]amino]-1-[3-(4-fluorophenoxy)propyl]-3-piperidinol acetate (ester); mp. 172.2° C. (compound 231).

reactant | cis-4-amino-5-chloro-N-[1-[3-(4-fluorophenoxy)propyl]-3-hydroxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCOC2=CC=C(C=C2)F)O)C=C1Cl)OC | C22H27ClFN3O4
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | cis-4-[[4-(acetylamino)-5-chloro-2-methoxybenzoyl]amino]-1-[3-(4-fluorophenoxy)propyl]-3-piperidinol acetate | C(C)(=O)O[C@@H]1CN(CC[C@@H]1NC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O)CCCOC1=CC=C(C=C1)F | C26H31ClFN3O6
